* D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Pulse_Shaper_Waveforms\Setup-With-Pulser-CSP-Shaper (100 ns)\0.1 pC\Setup-With-Pulser-CSP-Shaper.asc
XX1 N001 pulser-0.1picocoulombs
XX2 N001 N002 N005 N006 cr-110-r2
XX3 N002 N003 N004 N007 N008 cr-200-1us-r2.1
V2 N006 0 12
V4 N008 0 12
V3 0 N007 12
V1 0 N005 12
R1 N004 N002 140k

* block symbol definitions
.subckt pulser-0.1picocoulombs output
V1 N001 0 PULSE(0 -1 0 1e-9 1e-3 5e-9 1e-3)
C1 output N001 0.1pF
.ends pulser-0.1picocoulombs

.subckt cr-110-r2 input output -Vsupply +Vsupply
R1 N002 input 100Meg
C1 N002 input 1.4pF
C3 0 input 15pF
R3 output N006 50
R4 N006 N007 390
R5 N009 N007 390
V1 0 N005 .15
V4 0 N009 .305
Q1 -Vsupply N008 N004 0 PNP
Q2 +Vsupply N003 N001 0 NPN
R6 N001 0 5k
R9 N004 0 5k
R7 +Vsupply N003 1k
R8 -Vsupply N008 1k
D1 N008 0 1N750
D2 0 N003 1N750
XU2 N002 N007 N001 N004 N006 level.2 Avol=1Meg GBW=500Meg Slew=500Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=5000Meg
XU1 N005 input N001 N004 N002 level.2 Avol=3000 GBW=680Meg Slew=500Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=5000Meg
.ends cr-110-r2

.subckt cr-200-1us-r2.1 input output pole-zero -Vsupply +Vsupply
R11 0 pole-zero 220
R5 0 V_t-420 1k
C1 pole-zero input 470pF
R4 N002 V_t-420 310
R8 0 N003 1k
XU1 pole-zero V_t-420 N010 N001 V_t-420 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N004 N003 N010 N001 N003 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 0 N008 1k
R3 N006 N008 1k
XU3 N005 N008 N010 N001 N006 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 N003 N002 290pf
R2 N004 N002 310
C3 N004 0 100pF
C2 N005 0 100pF
R6 N005 N003 310
R12 0 N009 100
R13 output N009 1.05k
XU5 N007 N009 N010 N001 output level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 N007 0 100pF
R14 N007 N006 310
V3 N001 -Vsupply .5
V4 +Vsupply N010 .5
.ends cr-200-1us-r2.1

.model D D
.lib C:\Users\Jonathan Adams\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Jonathan Adams\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 3e-6 0 1e-10
.lib UniversalOpamps2.sub
.backanno
.end
